US04731368
2-Sulfamoyl-6-carbamoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine
To a warm (40° C.) solution of 2-sulfamoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (1.42 g, 6.5 mmol) in acetonitrile (80 ml), under a nitrogen atmosphere, was added trimethylsilyl isocyanate (1.0 ml, 7.4 mmol). This solution was stirred for 19 hours and then methanol (2 ml) was added. After 2 hours the precipitated pure product was collected by filtration (1.62 g, 95% yield); m.p. 205°-208° C.

reactant | 2-sulfamoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 6.5 mmol, 1.42 g | S(N)(=O)(=O)C1=CC2=C(CNCC2)S1 | C7H10N2O2S2
reactant | trimethylsilyl isocyanate | 7.4 mmol, 1.0 ml | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | methanol | 2 ml | CO | CH4O
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 2-Sulfamoyl-6-carbamoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 95% yield | S(N)(=O)(=O)C1=CC2=C(CN(CC2)C(N)=O)S1 | C8H11N3O3S2
